US07728022B2
Step 2—Ethyl (2-ethyl-7a-hydroxyoctahydro-1-benzofuran-7-yl)acetate
To a stirred solution of ethyl {3-[(2E)-but-2-en-1-yl]-2-oxocyclohexyl}acetate (565 mg, 2.37 mmol) in tetrahydrofuran (20 ml) at 0° C. was added borane.tetrahydrofuran complex (1 M in tetrahydrofuran, 3.56 ml, 3.56 mmol) and the reaction allowed to stir at 0° C. for 35 min. Sodium hydroxide (4N, 5.6 ml) and hydrogen peroxide (5.6 ml) were added and the reaction allowed to stir at room temperature for 1 h. Diluted with brine, then extracted three times with dichloromethane. The combined organics were washed twice with brine, dried over sodium sulfate, concentrated in vacuo and purified by column chromatography (50% EtOAc/hexanes). The desired title compound (345 mg) was obtained as a colourless oil as a complex mixture of diastereomers.

reactant | ethyl {3-[(2E)-but-2-en-1-yl]-2-oxocyclohexyl}acetate | 2.37 mmol, 565 mg | C(\C=C\C)C1C(C(CCC1)CC(=O)OCC)=O | C14H22O3
reactant | borane | B | BH3
reactant | Sodium hydroxide | 4N, 5.6 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 5.6 ml | OO | H2O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | tetrahydrofuran | 3.56 mmol, 1 M, 3.56 ml | O1CCCC1 | C4H8O
product | 2—Ethyl (2-ethyl-7a-hydroxyoctahydro-1-benzofuran-7-yl)acetate | 345 mg | C(C)C1OC2(C(C1)CCCC2CC(=O)OCC)O | C14H24O4
